Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
needs heparin bridge
 
Major Surgical or Invasive Procedure:
___ right premolar extraction

 
History of Present Illness:
Ms. ___ is a ___ ___ lady with AFib, MV 
stenosis s/p mechanical MV replacement ___ on Warfarin (INR 
goal 2.5-3.5), severe tricuspid regurgitation, chronic 
right-sided heart failure (EF 50%), with congestive hepatopathy 
and ascites, severe pulmonary hypertension, and CAD s/p CABG 
___ who has had ongoing tooth pain and requires a dental 
procedure so she is admitted for Heparin bridge in anticipation 
of the procedure.

She has been having tooth pain for weeks.  Pain is located in 
right pre-molar. She denies fevers and has not been on any 
antibiotics.  She went to the dentist as an outpatient who 
stated that she will need dental extraction (right pre-molar 
tooth) but was unable to perform this in the setting of 
mechanical valve.  She told this with her HCA PCP ___ 
___ who discussed with her Cardiologist (___) who 
recommended IV heparin bridging prior to dental procedure.  She 
is a direct admit to the Medicine floor.
 
On arrival to the floor, she feels at her baseline with pain of 
right pre-molar tooth.

Review of sytems:  
Denies fever, chills, night sweats, headache, vision changes, 
rhinorrhea, congestion, sore throat, cough, chest pain, 
abdominal pain, nausea, vomiting, diarrhea, constipation, BRBPR, 
melena, hematochezia, dysuria, hematuria.  
 
Past Medical History:
1. CARDIAC RISK FACTORS: 
      Diabetes
2. CARDIAC HISTORY:  
   1.) Severe right heart failure: As of ___, 
well-compensated NYHA ___, secondary to rheumatic fever as a 
child. Complicated by congestive hepatopathy and cirrhosis.
   2.) Severe pulmonary hypertension
   3.) "Wide open," severe tricuspid regurgitation since MVR 
___.
Status post-mitral valve
   4.) Mechanical mitral valve repair ___ (and ___ per Pt) for 

mitral stenosis (from rheumatic fever), on warfarin chronically
   5.) Preserved EF
   6.) CAD s/p CABG ___
   7.) Atrial fibrillation, on warfarin. Bilaterally enlarged 
atria.
-CABG: ___
-PERCUTANEOUS CORONARY INTERVENTIONS:  
-PACING/ICD:  
OTHER PAST MEDICAL HISTORY:  
1. Crystal-proven gout. 
2. Osteoarthritis of the knees.
3.  Osteoarthritis of the hands.
4.  Right rotator tendinopathy, resolved.
5.  Cirrhosis, secondary to chronic passive liver congestion: 
with ascites
6.  Diabetes mellitus: Insulin-dependent, type II, complicated 
by neuropathy
7.  Anxiety
8.  Varicose veins (extensive).
9.  GERD

 
Social History:
___
Family History:
No family history of early MI, arrhythmia, cardiomyopathies, or 
sudden cardiac death; otherwise non-contributory.  
 
Physical Exam:
ADMISSION EXAM
Vitals - 98.2, 135/77, 68, 98%RA
General- Alert, oriented, no acute distress  
HEENT- Sclera anicteric, dentures of lower teeth on, pain of 
right pre-molar, no erythema/exudate appreciated  
Neck- supple, JVP not elevated, no LAD  
Lungs- Clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
CV- Irregular, diastolic murmur RUSB
Abdomen- soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
GU- no foley  
___- significant vericose veins b/l ___, 2+ pulses, no clubbing, 
cyanosis or edema
Neuro- CNs2-12 intact, motor function grossly normal  

DISCHARGE EXAM
Vitals - 97.___.2 129/54(120s-130s/50s), 70, 98%RA
GEN - Alert, oriented, no acute distress  
HEENT - Right lower pre molar extracted, sutures observed, no 
active signs of bleeding. Pain well controlled. No 
erythema/exudate appreciated, no jaw pain, no difficulty 
opening/closing mouth  
NECK - supple, JVP elevated 5cm, no LAD  
LUNGS - Clear to auscultation bilaterally, no wheezes, or 
crackles  
CV - Irregular, diastolic murmur RUSB/LSB
ABD - unchanged. soft, non-tender, non-distended, bowel sounds 
present, no rebound tenderness or guarding, no organomegaly  
GU- no foley  
___ - unchanged. significant vericose veins b/l ___, 2+ pulses, 
no clubbing, cyanosis or edema
Neuro- CNs2-12 intact, motor function grossly normal. lucid.  
ambulating on own.
 
Pertinent Results:
ADMISSION LABS
___ 10:02PM BLOOD WBC-7.0 RBC-3.57* Hgb-11.4* Hct-33.4* 
MCV-94# MCH-31.9 MCHC-34.0 RDW-14.8 Plt ___
___ 11:47AM BLOOD ___
___ 06:00AM BLOOD Glucose-153* UreaN-50* Creat-1.5* Na-133 
K-4.2 Cl-91* HCO3-33* AnGap-13
___ 06:00AM BLOOD Calcium-9.7 Phos-3.4 Mg-2.3

DISCHARGE LABS
___ 07:15AM BLOOD WBC-6.7 RBC-3.78* Hgb-12.0 Hct-34.8* 
MCV-92 MCH-31.7 MCHC-34.4 RDW-14.6 Plt ___
___ 07:15AM BLOOD ___ PTT-91.1* ___
___ 06:48AM BLOOD Glucose-138* UreaN-46* Creat-1.4* Na-132* 
K-4.4 Cl-88* HCO3-32 AnGap-16
___ 06:48AM BLOOD Calcium-9.8 Phos-4.2 Mg-2.4

INR TREND
___ 11:47AM BLOOD ___
___ 06:00AM BLOOD ___ PTT-150* ___
___ 07:00AM BLOOD ___ PTT-61.8* ___
___ 06:00AM BLOOD ___ PTT-58.5* ___
___ 12:43AM BLOOD ___ PTT-77.4* ___
___ 06:48AM BLOOD ___ PTT-90.5* ___
___ 07:15AM BLOOD ___ PTT-91.1* ___

___ (PANOREX FOR DENTAL) - unread

Pathology ReportTissue: Tooth # 28.Procedure Date of ___
Report not finalized.
Assigned Pathologist ___.
Please contact the pathology department, ___ ___
PATHOLOGY # ___
Tooth # 28.
 
Brief Hospital Course:
Sra. ___ is a ___ ___ lady with AFib, MV 
stenosis s/p mechanical MV replacement ___ on Warfarin (INR 
goal 2.5-3.5), severe tricuspid regurgitation, chronic 
right-sided heart failure (EF 50%), with congestive hepatopathy 
and ascites, severe pulmonary hypertension, and CAD s/p CABG 
___ who had ongoing tooth pain as an outpatient.  She was 
directly admitted to Medicine for Heparin bridge while her INR 
was allowed to drift downwards in order to undergo tooth 
extraction.  She underwent uncomplicated single extraction of 
tooth #28 on ___ and then remained in house on a Heparin drip 
until her INR was therapeutic again, and then she was discharged 
home.

## DENTAL INFECTION & PAIN: resolved s/p extraction.
No signs or symptoms of severe infection.  OMFS performed 
uncomplicated single extraction of tooth #28 on ___, with 
pre-operative Unasyn.  No bleeding complications.  The procedure 
was done in the OR but only under local anesthesia.  Sutures 
will dissolve.  She will follow up with her dentist or OMFS, as 
she prefers.

## MECHANICAL MV REPLACEMENT: on Warfarin, goal INR 2.5-3.5.
As soon as she was directly admitted to the Medicine floor, she 
was placed on Heparin gtt and her Warfarin was held.  She was 
therapeutic for the duration of her admission, except for 
stopping the drip 6 hrs pre-procedure.  It was able to be 
re-started immediately post-operatively, and she was restarted 
on her Warfarin post-operatively as well.  Heparin gtt was 
stopped and she was discharged when her INR was >2.5.  Home 
Warfarin dose was not changed; she will f/u tomorrow at ___ 
___ clinic for INR check.
- 5mg given ___ mg given ___ (INR in am = 1.9)
- 7.5 mg give ___ (INR in am = 2.3)
- Discharged ___ (INR in am = 3.0), please take 5 mg at home

## CHF: stable issue, euvolemic.
Her tricuspid regurgitation is severe and moderate pulmonary 
hypertension; she was euvolemic on exam.  She was continued on 
her home meds (torsemide, metoprolol, hctz, spironolactone).

## HYPONa: asymptomatic, stable.
Na 133 on admission.  Euvolemic on exam. Baseline Na appears to 
be 133-140.  She remains on HCTZ, Torsemide, Spironolactone 
which could be contributing.  Na was stable at 132 on the day of 
discharge.

## DM 2: stable.
She was continued on her home Lantus 60mg QHS.  She initially 
declined the proposed sliding scale (she felt that she would 
drop too low since she was NPO for the procedure) and was 
subsequently hyperglycemic in the 200's-300's.  When her family 
brought in her home sliding scale, it was entered and she 
complied, with much better blood glucose control.  She did not 
have any hypoglycemia during this admission.

## GOUT/OA: stable.
She was continued on Febuxostat and low-dose Prednisone.

## TRANSITIONAL ISSUES
Emergency Contact:   ______
Studies/labs pending at discharge:  
--Panorex was viewed/interpreted by ___ so no Radiology read 
pending
--Extracted tooth pathology
 
Medications on Admission:
1. Febuxostat 80 mg PO DAILY 
2. Gabapentin 600 mg PO TID 
3. Hydrochlorothiazide 12.5 mg PO DAILY  
4. Metoprolol Succinate XL 25 mg PO DAILY  
5. Potassium Chloride 10 mEq PO BID  
6. PredniSONE 5 mg PO DAILY 
7. Spironolactone 50 mg PO DAILY  
8. Torsemide 150 mg PO DAILY 
9. Warfarin ___ mg PO DAILY (AS DIRECTED BY ___ 
___ CLINIC) 
10. Glargine 60 Units Bedtime
Insulin SC Sliding Scale using HUMALOG Insulin
 
Discharge Medications:
1. Febuxostat 80 mg PO DAILY 
2. Gabapentin 600 mg PO TID 
3. Hydrochlorothiazide 12.5 mg PO DAILY  
4. Metoprolol Succinate XL 25 mg PO DAILY  
5. Potassium Chloride 10 mEq PO BID  
6. PredniSONE 5 mg PO DAILY 
7. Spironolactone 50 mg PO DAILY  
8. Torsemide 150 mg PO DAILY 
9. Warfarin ___ mg PO DAILY (AS DIRECTED BY ___ 
___ CLINIC) 
10. Glargine 60 Units Bedtime
Insulin SC Sliding Scale using HUMALOG Insulin
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY:
- Tooth extraction
- INR maintenance and Heparin Bridge

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear. Ms. ___,

Thank you for choosing ___.  You were 
admitted for extraction of your right premolar tooth and 
management of your Warfarin/INR during this procedure.  Your 
Home INR(International Normalized Ratio) goal is 2.5 - 3.5 given 
your mechanical mitral valve.  Your Warfarin was stopped the day 
before the procedure, and Heparin was started to maintain 
anticoagulation.  The oral and maxillofacial surgeons (___) 
performed the extraction in an operating room while Heparin was 
off.  The operation was successful and there was minimal 
bleeding.  Sutures were left in the location of the former 
tooth, and these sutures will dissolve on their own.  The ___ 
team suggests you follow up with them, or your home Dentist.  
The ___ phone number is ___ if you wish to follow up 
with them.

After the procedure your Heparin was continued and Warfarin was 
restarted to reach your INR goal of 2.5.  On the day of 
discharge your INR = 3.0. 

POST PROCEDURE RECOMMENDATIONS:
- Pain control with Tylenol
- Soft diet
- Maintain meticulous oral hygiene
- Rinse your mouth with Over the counter product called 
"Peridex" twice/day
- No straws, vigorous rinsing, spitting

MEDICATIONS:
WARFARIN:
- 5mg given ___ mg given ___ (INR in am = 1.9)
- 7.5 mg give ___ (INR in am = 2.3)
- Discharged ___ (INR in am = 3.0), please take 5 mg at home

Continue other medications normally
 
Followup Instructions:
___